US06331539B1
Benzenesulfonyl chloride (0.45 ml in 10 ml dichloromethane, 3.5 mmol) was added dropwise to a stirring solution of 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine (1.0 g, 3.2 mmol), dichloromethane (140 ml), and pyridine (0.8 ml). The reaction was maintained at room temperature for four hours and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 9:1 dichloromethane/methanol, Rf0.28) followed by recrystallization from dichloromethane/diethyl ether to provide 1.14 g of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-1-benzenesulfonamide as a white powder, m.p. 75.5-79.0° C. 1H NMR (500 MHz, DMSO-d6) δ 7.99 (d, J=7.7 Hz, 1H), 7.76 (d, J=7.2, 2H), 7.63-7.53 (m, 5H), 7.42 (m, 1H), 7.25 (m, 1H), 6.43 (broad s, 2H), 4.45 (t, J=7.6 Hz, 2H), 2.87 (t, J=7.7 Hz, 2H), 2.78 (m, 2H), 1.79 (m, 4H), 1.55-1.40 (m, 4H), 0.95 (t, J=7.4 Hz, 3H); MS (EI) m/e 451.2036 (451.2042 calcd for C24H29N5O2S); Anal calcd for C24H29N5O2S: C, 63.83; H, 6.47; N, 15.51. Found: C, 63.89; H, 6.42; N, 15.30.

reactant | Benzenesulfonyl chloride | 3.5 mmol, 0.45 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine | 3.2 mmol, 1.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
product | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-1-benzenesulfonamide | 1.14 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=CC=C2)CCCC | C24H29N5O2S
